US07691882B2
5-(3-(6-Phenoxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a tetrahydrofuran (2 mL) solution of 5-ethynyl-pyridin-2-ylamine (30 mg, 0.25 mmol) described in Manufacturing Example 28-1-3 were added (2-phenoxy-pyridin-5-yl)-acetohydroximoyl chloride (100 mg, 0.381 mmol) described in Manufacturing Example 40-1-4 and triethylamine (70.8 μL, 0.508 mmol), which was stirred for 8 hours at 50° C. Water was added to the reaction mixture at room temperature, which was extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate) to obtain the title compound (26 mg, 30%).

reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | 5-ethynyl-pyridin-2-ylamine | 0.25 mmol, 30 mg | C(#C)C=1C=CC(=NC1)N | C7H6N2
reactant | (2-phenoxy-pyridin-5-yl)-acetohydroximoyl chloride | 0.381 mmol, 100 mg | O(C1=CC=CC=C1)C1=NC=C(C=C1)CC(=NO)Cl | C13H11ClN2O2
reactant | triethylamine | 0.508 mmol, 70.8 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 5-(3-(6-Phenoxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine | 26 mg, 30% | O(C1=CC=CC=C1)C1=CC=C(C=N1)CC1=NOC(=C1)C=1C=CC(=NC1)N | C20H16N4O2
